US08937077B2
Step 1: tert-butyl 5-chloro-7-methyl-1H-pyrrolo[3,2-b]pyridine-1-carboxylate
To 5-chloro-7-methyl-1H-pyrrolo[3,2-b]pyridine (500 mg, 3.00 mmol) in THF (3.0 mL), was added TEA (418 μL, 3.00 mmol) and DMAP (367 mg, 3.00 mmol) and Boc2O (766 μL, 3.30 mmol) at 0° C. The reaction was stirred at room temperature for 16 hours, concentrated in vacuo and purified by column chromatography on silica gel using 5-40% ethyl acetate/hexanes to afford desired product as a white solid. LRMS calc'd for C13H16N2O2Cl [M+H]+, 267; found 267. 1H NMR (500 MHz, CDCl3) δ 7.78 (d, J′ 3.9Hz, 1H), 7.05 (s, 1H), 6.67 (d, J=3.8Hz), 2.70 (s, 3H), 1.65 (s, 9H).

reactant | 5-chloro-7-methyl-1H-pyrrolo[3,2-b]pyridine | 3.00 mmol, 500 mg | ClC1=CC(=C2C(=N1)C=CN2)C | C8H7ClN2
reactant | Boc2O | 3.30 mmol, 766 μL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 3.00 mmol, 367 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 5-chloro-7-methyl-1H-pyrrolo[3,2-b]pyridine-1-carboxylate | ClC1=CC(=C2C(=N1)C=CN2C(=O)OC(C)(C)C)C | C13H15ClN2O2
